US07723352B2
3-tert-Butyl-6-hydroxy-2-methyl-4-phenyl-2H-isoquinolin-1-one
To a methylene chloride (5 mL) solution of 3-tert-butyl-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one (100 mg, 0.311 mmol) under argon at −70° C. was added boron tribromide (1.0M, 0.934 mL, 0.934 mmol). The contents of the reaction flask were warmed to room temperature and stirred 24 h. Extracted with methylene chloride (3×), then the combined organic extracts were washed with brine and dried with anhydrous sodium sulfate. Filtration followed by evaporation of solvent in vacuo gave a solid which was triturated with ethanol. Recrystallization from ethyl acetate/ethanol afforded the title compound.

reactant | 3-tert-butyl-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | 0.311 mmol, 100 mg | C(C)(C)(C)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C21H23NO2
reactant | boron tribromide | 0.934 mmol, 1.0M, 0.934 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-Butyl-6-hydroxy-2-methyl-4-phenyl-2H-isoquinolin-1-one | C(C)(C)(C)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)O)=O)C | C20H21NO2
